US06329528B1
To a solution of ethyl 4-bromo-3-methyl-2-thiophenecarboxylate (5.0 g, 0.0201 mol) in THF/MeOH/H2O (4:1:1, v/v/v, 50 mL) was added NaOH (1.00 g, 0.0251 mol) and the resulting mixture was stirred at ambient temperature overnight. The mixture was acidified by adding 6 N HCl (100 mL) and water (100 mL). The resulting fine white precipitate was filtered off, washed with water and dried to give 3.80 g (86%) of 4-bromo-3-methyl-2-thiophenecarboxylic acid as a fine white solid, mp 188-189° C.

reactant | ethyl 4-bromo-3-methyl-2-thiophenecarboxylate | 0.0201 mol, 5.0 g | BrC=1C(=C(SC1)C(=O)OCC)C | C8H9BrO2S
reactant | NaOH | 0.0251 mol, 1.00 g | [OH-].[Na+]
reactant | HCl | 6 N, 100 mL | Cl | ClH
reactant | water | 100 mL | O | H2O
solvent | THF MeOH H2O | 50 mL | C1CCOC1.CO.O
product | 4-bromo-3-methyl-2-thiophenecarboxylic acid | 3.80 g, 86% | BrC=1C(=C(SC1)C(=O)O)C | C6H5BrO2S
